* Test DC mode support for the DC_CONT version of
* DERIV-AT and DERIV-WHEN measures. This bug covers:
*
*   1) The case of one variable (v1) on the .DC line, with
*      one variable (global param P1) in the .STEP statement.
*
*   2) The DC values of the swept variable (v1) are
*      monotonically decreasing.
*
* See SON Bugs 1274, 1304 and 1313 for more details
*****************************************************

.GLOBAL_PARAM P1=4

V1 1 0 1
R1 1 0 1

B2 2 0 V={(V(1)-2.5)*(V(1)-2.5)*(V(1)-7.5)*(V(1)-7.5)/P1}
R2 2 3 1
R3 3 0 1

* Reverse the step order on v1 (from the test in MEASURE_DC)
* to make sure that both increasing and decreasing sequences of
* values are tested.
.DC v1 10 1 -1
.STEP P1 4 6 2
.print dc v(1) v(2) v(3) P1

******************************************************
* test CROSS qualifier and DERIV-WHEN measures.
* Non-continuous version should return first crossing.
* Continuous version should return all crossings.
.MEASURE DC derivCrossTest1 DERIV V(2) WHEN V(2)=5
.MEASURE DC_CONT derivCrossContTest1 derivative V(2) WHEN V(2)=5

* Non-continuous version should return first crossing.
* Continuous version should return all crossings, starting
* with the first one.
.MEASURE DC derivCrossTest2 DERIV V(2) WHEN V(2)=5 CROSS=1
.MEASURE DC_CONT derivCrossContTest2 DERIV V(2) WHEN V(2)=5 CROSS=1

* Non-continuous version should return second crossing.
* Continuous version should return all crossings, starting
* with the second one.
.MEASURE DC derivCrossTest3 DERIV V(2) WHEN V(2)=5 CROSS=2
.MEASURE DC_CONT derivCrossContTest3 DERIV V(2) WHEN V(2)=5 CROSS=2

* These should both return the last crossing
.MEASURE DC derivCrossTest4 DERIV V(2) WHEN V(2)=5 CROSS=LAST
.MEASURE DC_CONT derivCrossContTest4 DERIV V(2) WHEN V(2)=5 CROSS=LAST

******************************************************
* DERIV-AT measures
* These should give the same answer
.MEASURE DC atTest DERIV V(2) AT=2
.MEASURE DC_CONT atContTest DERIV V(2) AT=2

*****************************************************
* test RISE and FAll qualifiers for DERIV-WHEN
.MEASURE DC_CONT derivRiseContTest1 DERIV V(2) WHEN V(2)=5 RISE=1
.MEASURE DC_CONT derivRiseContTest2 DERIV V(2) WHEN V(2)=5 RISE=2
.MEASURE DC_CONT derivRiseContTest3 DERIV V(2) WHEN V(2)=5 RISE=LAST

.MEASURE DC_CONT derivFallContTest1 DERIV V(2) WHEN V(2)=5 FALL=1
.MEASURE DC_CONT derivFallContTest2 DERIV V(2) WHEN V(2)=5 FALL=2
.MEASURE DC_CONT derivFallContTest3 DERIV V(2) WHEN V(2)=5 FALL=LAST

*********************************************************
* Test negative values
.MEASURE DC derivCrossNeg2 DERIV V(2) WHEN V(2)=5 CROSS=-2
.MEASURE DC derivCrossNeg3 DERIV V(2) WHEN V(2)=5 CROSS=-3
.MEASURE DC derivCrossNeg5 DERIV V(2) WHEN V(2)=5 CROSS=-5
.MEASURE DC_CONT derivCrossContNeg1 DERIV V(2) WHEN V(2)=5 CROSS=-1
.MEASURE DC_CONT derivCrossContNeg2 DERIV V(2) WHEN V(2)=5 CROSS=-2
.MEASURE DC_CONT derivCrossContNeg3 DERIV V(2) WHEN V(2)=5 CROSS=-3
.MEASURE DC_CONT derivCrossContNeg4 DERIV V(2) WHEN V(2)=5 CROSS=-4
.MEASURE DC_CONT derivCrossContNeg5 DERIV V(2) WHEN V(2)=5 CROSS=-5

.MEASURE DC derivRiseNeg2 DERIV V(2) WHEN V(2)=5 RISE=-2
.MEASURE DC derivRiseNeg3 DERIV V(2) WHEN V(2)=5 RISE=-3
.MEASURE DC_CONT derivRiseContNeg1 DERIV V(2) WHEN V(2)=5 RISE=-1
.MEASURE DC_CONT derivRiseContNeg2 DERIV V(2) WHEN V(2)=5 RISE=-2
.MEASURE DC_CONT derivRiseContNeg3 DERIV V(2) WHEN V(2)=5 RISE=-3

.MEASURE DC derivFallNeg2 DERIV V(2) WHEN V(2)=5 FALL=-2
.MEASURE DC derivFallNeg3 DERIV V(2) WHEN V(2)=5 FALL=-3
.MEASURE DC_CONT derivFallContNeg1 DERIV V(2) WHEN V(2)=5 FALL=-1
.MEASURE DC_CONT derivFallContNeg2 DERIV V(2) WHEN V(2)=5 FALL=-2
.MEASURE DC_CONT derivFallContNeg3 DERIV V(2) WHEN V(2)=5 FALL=-3

*************************************************
* test failed measures
.MEASURE DC_CONT derivCrossContFail1 DERIV V(2) WHEN V(2)=100
.MEASURE DC_CONT atContFail DERIV V(2) at=20
.MEASURE DC_CONT derivCrossContFail2 DERIV V(2) WHEN V(2)=5 CROSS=5
.MEASURE DC_CONT derivRiseContFail DERIV V(2) WHEN V(2)=5 RISE=3
.MEASURE DC_CONT derivFallContFail DERIV V(2) WHEN V(2)=5 FALL=3

* Signifies end of test. .sh file looks for a measure named lastMeasure.
* This is needed for compatibility for testing with a verbose build, which
* is often used by the Xyce developers.
.measure dc lastMeasure min v(2)

.END
